US04470972
Dissolve 7.0 g of 1-benzyloxycarbonyl-4-keto-(S)-proline methyl ester in 75 ml of glacial acetic acid. Add 0.7 g of p-toluenesulfonic acid and 2.8 g of 1,2-ethanedithiol and heat under reflux with stirring for eighteen hours. Add the reaction mixture to saturated sodium bicarbonate solution and extract with ethyl acetate. Dry the organic layer over magnesium sulfate and concentrate it. Place the residue on a column of silica gel (300 g, 60-200 mesh) and elute with hexane:ethyl acetate (1:1) to give 7-benzyloxycarbonyl-1,4-dithia-7-azaspiro-[4.4]nonane-8(S)-carboxylic acid methylester, a yellow oil having [α]D26 -12.6° (dioxane).

reactant | 1-benzyloxycarbonyl-4-keto-(S)-proline methyl ester | 7.0 g | COC([C@H]1N(CC(C1)=O)C(=O)OCC1=CC=CC=C1)=O | C14H15NO5
reactant | p-toluenesulfonic acid | 0.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,2-ethanedithiol | 2.8 g | C(CS)S | C2H6S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 7-benzyloxycarbonyl-1,4-dithia-7-azaspiro-[4.4]nonane-8(S)-carboxylic acid methylester | COC(=O)[C@H]1N(CC2(SCCS2)C1)C(=O)OCC1=CC=CC=C1 | C16H19NO4S2
